US06433203B1
(8a) Synthesis of 1,3-bis(indenyl)propane
12.8 mL of indene (91% by GC, 0.1 mol) and 130 mL of THF were placed in a 250 mL flask equipped with stirring bar and dropping funnel. After cooling to −78° C., 62.6 mL of 1.6 M BuLi solution in hexane were added dropwise. At the end of the addition the reaction mixture was allowed to warm to room temperature. The so obtained dark solution was transferred into a 250 mL dropping funnel connected to a 0.5 L flask, and then added dropwise over 1 h to a solution of 10.1 g (5 mL, 0.05 mol) of 1,3-dibromopropane in 100 mL THF under vigorous stirring, while keeping the temperature of the reaction mixture in the range −70 to −75° C. throughout the addition. The cooling bath was removed and the mixture stirred overnight. 10 mL MeOH were then added and the solvents removed under reduced pressure. The obtained solid was suspended in 100 mL of a 4:1 hexane-CH2Cl2 mixture and passed through silica gel using the same mixture as eluent. The solvents were removed under reduced pressure and the resulting slightly yellow crystalline product was washed twice with small portions of cold ethanol and dried in vacuum. Yield 72%, purity 95.2% (G.C.).

reactant | indene | 0.1 mol, 12.8 mL | C1C=CC2=CC=CC=C12 | C9H8
reactant | BuLi | 1.6 M, 62.6 mL | [Li]CCCC
reactant | 1,3-dibromopropane | 0.05 mol, 5 mL, 10.1 g | BrCCCBr | C3H6Br2
solvent | hexane | CCCCCC | C6H14
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | 1,3-bis(indenyl)propane | Yield 72% | C1(C=CC2=CC=CC=C12)CCCC1C=CC2=CC=CC=C12 | C21H20
